US04477671
3-Acetoxy-2-acetoxymethyl-6-[1-acetoxy-2-(N-tert-butylacetamido)ethyl]pyridine
A solution of 1.0 g. (0.0027 mole) of 3-acetoxy-2-methyl-6-[1-acetoxy-2-(N-tert-butylacetamido)ethyl]pyridine N-oxide in 10 ml. of acetic anhydride was heated at the reflux temperature for 2.5 hours, then was allowed to cool to room temperature and stirred at this temperature overnight. The reaction mixture was poured into a two phase mixture of ethyl acetate and aqueous sodium bicarbonate and stirred for 1 hour. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered and evaporated to dryness in vacuo to give a brown oil which was purified by column chromatography on silica gel with ether as the eluant to give 300 mg. (27%) of the desired product; m.p. 60°-64° C.

reactant | 3-acetoxy-2-methyl-6-[1-acetoxy-2-(N-tert-butylacetamido)ethyl]pyridine N-oxide | 0.0027 mole | C(C)(=O)OC=1C(=[N+](C(=CC1)C(CN(C(C)=O)C(C)(C)C)OC(C)=O)[O-])C | C18H26N2O6
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Acetoxy-2-acetoxymethyl-6-[1-acetoxy-2-(N-tert-butylacetamido)ethyl]pyridine | 27% | C(C)(=O)OC=1C(=NC(=CC1)C(CN(C(C)=O)C(C)(C)C)OC(C)=O)COC(C)=O | C20H28N2O7
